US06350749B1
To a mixture of 5-(5-chloro-2-fluorophenyl)-1-[2-(4-methylphenylsulfonyl)hydrazino]cyclohexen-3-one (2.0 g), anhydrous potassium carbonate (1.68 g), methanol (20 ml) and 1,2-dimethoxyethane (10 ml) was added under ice-cooling 1-bromopropan-2-one (0.87 g), and the mixture was stirred for 2 hours at room temperature, and then for 6 hours at 80° C. Under reduced pressure, the solvent was evaporated, and to the residue was added ethyl acetate (70 ml) and water (30 ml). The mixture was shaken, and the separated upper layer was washed with water and concentrated under reduced pressure. The residue was purified with silica gel column chromatography to give 7-(5-chloro-2-fluorophenyl)-4-methyl-5,6,7,8-tetrahydrocinnolin-5-one (0.338 g) as yellowish brown crystals.

reactant | 5-(5-chloro-2-fluorophenyl)-1-[2-(4-methylphenylsulfonyl)hydrazino]cyclohexen-3-one | 2.0 g | ClC=1C=CC(=C(C1)C1CC(C=C(C1)NNS(=O)(=O)C1=CC=C(C=C1)C)=O)F | C19H18ClFN2O3S
reactant | potassium carbonate | 1.68 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 20 ml | CO | CH4O
reactant | 1-bromopropan-2-one | 0.87 g | BrCC(C)=O | C3H5BrO
solvent | 1,2-dimethoxyethane | 10 ml | COCCOC | C4H10O2
product | 7-(5-chloro-2-fluorophenyl)-4-methyl-5,6,7,8-tetrahydrocinnolin-5-one | 0.338 g | ClC=1C=CC(=C(C1)C1CC(C=2C(=CN=NC2C1)C)=O)F | C15H12ClFN2O
